US07781438B2
Preparation of (7-{[(2-fluoro-ethyl)-amino]-methyl}-2-chloro-naphthalen-1-yl)-acetic acid ethyl ester
2-Fluoroethylamine hydrochloride (94 mg, 0.94 mmol) is added under an atmosphere of argon to a solution of (2-chloro-7-formyl-naphthalen-1-yl)-acetic acid ethyl ester (200 mg, 0.72 mmol) in 7.6 ml of THF. Triethylamine (0.13 ml, 0.94 mmol) is added, and the mixture is stirred at RT for 18 h, before a solution of sodium cyanoborohydride (50 mg, 0.80 mmol) in MeOH (2.0 ml) and glacial acetic acid (0.21 ml, 3.61 mmol) are added. After stirring at RT for 1 h, TLC analysis indicates complete consumption of starting material. The reaction mixture is diluted with water and adjusted to pH 8 by the addition of a 1 M aqueous solution of NaHCO3. Extraction with EtOAc, washing with brine, drying over Na2SO4 and removal of solvent yields the crude reaction product. Purification by FCC (EtOAc/MeOH 9:1) affords the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.26 (t, J=8.4 Hz, 3H), 2.92-3.04 (m, 2H), 4.06 (s, 2H), 4.19 (q, J=8.4 Hz, 2H), 4.32 (s, 2H), 4.52-4.68 (m, 2H), 7.48 (d, J=9 Hz, 1H), 7.51-7.53 (m, 1H), 7.73 (d, J=9.4 Hz, 1H), 7.82 (d, J=9 Hz, 1H), 7.88 (s, 1H). ES+-MS: 324.2, 326.1 [M+H]+.

reactant | 2-Fluoroethylamine hydrochloride | 0.94 mmol, 94 mg | Cl.FCCN
reactant | (2-chloro-7-formyl-naphthalen-1-yl)-acetic acid ethyl ester | 0.72 mmol, 200 mg | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)C=O)Cl)=O | C15H13ClO3
reactant | Triethylamine | 0.94 mmol, 0.13 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 0.80 mmol, 50 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 3.61 mmol, 0.21 ml | C(C)(=O)O | C2H4O2
solvent | THF | 7.6 ml | C1CCOC1 | C4H8O
solvent | MeOH | 2.0 ml | CO | CH4O
product | (7-{[(2-fluoro-ethyl)-amino]-methyl}-2-chloro-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)CNCCF)Cl)=O | C17H19ClFNO2
